US08022205B2
To a dichloromethane solution (25 ml) of ice-cooled N-(2-aminoethyl)morpholine (690 mg, 5.30 mmol), di tert-butyl dicarbonate (1.27 g, 5.83 mmol) was added, followed by stirring at room temperature for 15 hours. The reaction mixture was diluted with ethyl acetate (20 ml), and washed sequentially with saturated aqueous ammonium chloride solution (20 ml) and brine. After the organic layer was dried over sodium sulfate, the sodium sulfate was filtered off, and the filtrate was concentrated under reduced pressure, to obtain a crude product of (2-morpholin-4-yl-ethyl)-carbamic acid tert-butyl ester as a yellow liquid (1.22 g).

reactant | dichloromethane | 25 ml | ClCCl | CH2Cl2
reactant | N-(2-aminoethyl)morpholine | 5.30 mmol, 690 mg | NCCN1CCOCC1 | C6H14N2O
reactant | di tert-butyl dicarbonate | 5.83 mmol, 1.27 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (2-morpholin-4-yl-ethyl)-carbamic acid tert-butyl ester | 1.22 g | C(C)(C)(C)OC(NCCN1CCOCC1)=O | C11H22N2O3
